### PR TITLE
refactor: golf only `Cyclotomic/Basic`, `ArithmeticFunction/Zeta`

### PR DESCRIPTION
**Pull request by yuanyi-350**
This PR selectively ports part of #38144 and only migrates the changes in:

- `Mathlib/NumberTheory/ArithmeticFunction/Defs.lean`
- `Mathlib/NumberTheory/ArithmeticFunction/Zeta.lean`

Concretely, this PR:

- golfs the proofs of `one_smul'` and `mul_one` in `ArithmeticFunction/Defs` by rewriting them through mapped divisor sums and `sum_eq_single`, instead of the previous manual `by_cases` / `sum_subset` argument
- proves `coe_zeta_mul_comm` in `ArithmeticFunction/Zeta` directly from the swapped `divisorsAntidiagonal` sum, and then derives `coe_mul_zeta_apply` from that commutativity lemma

### CODE REVIEW

File: Mathlib/NumberTheory/ArithmeticFunction/Defs.lean [hunk 1]
```diff
@@ -282,17 +278,11 @@ instance instMonoid : Monoid (ArithmeticFunction R) where
...
+    rw [mul_apply, ← Nat.map_div_left_divisors, sum_map, sum_eq_single 1]
     · simp
-    intro ⟨y₁, y₂⟩ ymem ynotMem
-    have y2ne : y₂ ≠ 1 := by
-      intro con
-      simp_all
-    simp [y2ne]
+    · intro d hd hd1
+      simp [one_apply_ne hd1]
+    · simpa using fun hx : x = 0 => by simp [hx]
```
Comment (tb65536) [inline Mathlib/NumberTheory/ArithmeticFunction/Defs.lean]: This seems to be basically the same as `one_smul'` above. Is it possible to appeal to `one_smul'` directly?

Comment (yuanyi-350) [reply Mathlib/NumberTheory/ArithmeticFunction/Defs.lean]: I tried, but it doesn't seem to work

File: Mathlib/NumberTheory/ArithmeticFunction/Defs.lean [hunk 2]
```diff
@@ -262,15 +262,11 @@ theorem mul_smul' (f g : ArithmeticFunction R) (h : ArithmeticFunction M) :
 
 theorem one_smul' (b : ArithmeticFunction M) : (1 : ArithmeticFunction R) • b = b := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/ArithmeticFunction/Defs.lean:263]: slight golf:
```suggestion
theorem one_smul' (b : ArithmeticFunction M) : (1 : ArithmeticFunction R) • b = b := by
  ext x
  rw [smul_apply, ← Nat.map_div_right_divisors, sum_map]
  simp_rw [Function.Embedding.coeFn_mk, one_apply, ite_smul, one_smul, zero_smul, sum_ite_eq']
  grind [b.map_zero]
```

File: Mathlib/NumberTheory/ArithmeticFunction/Defs.lean [hunk 3]
```diff
@@ -282,17 +278,11 @@ instance instMonoid : Monoid (ArithmeticFunction R) where
   one_mul := one_smul'
   mul_one f := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/ArithmeticFunction/Defs.lean:283]: slight golf:
```suggestion
  mul_one f := by
    ext x
    rw [mul_apply, ← Nat.map_div_left_divisors, sum_map]
    simp_rw [Function.Embedding.coeFn_mk, one_apply, mul_ite, mul_one, mul_zero, sum_ite_eq']
    grind [f.map_zero]
```

File: Mathlib/NumberTheory/ArithmeticFunction/Defs.lean (hunk 1 above)
Comment (tb65536) [reply Mathlib/NumberTheory/ArithmeticFunction/Defs.lean]: ah, I see, it's in the other direction

**Comment by MichaelStollBayreuth** [comment]
Please don't add golfs in unrelated files. It works best when PRs are small and self-contained.

**Comment by yuanyi-350** [comment]
Sorry, I think the golf in the original file seems meaningless, so I plan to clean up the original file and add a new one; otherwise, this PR would be too small. It seems I should propose a new PR.

**Comment by MichaelStollBayreuth** [comment]
Why should the golf in Mathlib/NumberTheory/ArithmeticFunction/Zeta.lean be meaningless?
Also, there is no such thing as a "too small" PR. I think what you want to do will work best if you open a PR for each file (or maybe for a group of files in the same directory). Short PRs can be reviewed more quickly.

More concretely, please reduce this PR to deal with Mathlib/NumberTheory/ArithmeticFunction/Zeta.lean and open a separate PR for Mathlib/NumberTheory/Cyclotomic/Basic.lean.

**Comment by grunweg** [comment]
Also, can you please follow the request made in the comments [here](https://github.com/leanprover-community/mathlib4/pull/38250#issuecomment-4276224514) and [here](https://github.com/leanprover-community/mathlib4/pull/38250#issuecomment-4276229126)? Thanks!
